US07705042B2
b) 1-[3-(4-Fluoro-piperidin-1-yl)-4-nitro-phenyl]-4-methyl-piperazine
A solution of 1-(5-chloro-2-nitro-phenyl)-4-fluoro-piperidine (as prepared in the previous step, 0.44 g, 1.7 mmol) in 4-methylpiperazine (2 mL) was heated to 80° C. for 18.5 h. The solution was cooled to room temperature, diluted with CH2Cl2, and washed with water. The aqueous layer was further extracted with CH2Cl2. The combined organic layers were dried over MgSO4 and concentrated in vacuo to afford the title compound (0.51 g, 93%) as a bright yellow solid. 1H-NMR (CDCl3; 400 MHz): δ 8.04 (d, 1H, J=9.2 Hz), 6.45 (dd, 1H, J=9.2 Hz, J=2.4 Hz), 6.34 (d, 1H, J=2.4 Hz), 4.97-4.79 (m, 1H), 3.38 (app t, 4H, J=5.2 Hz), 3.26-3.15 (m, 4H), 3.07-2.98 (m, 4H), 2.54 (app t, 4H, J=5.2 Hz), 2.35 (s, 3H). LC-MS (ESI, m/z): Calcd. for C16H23FN4O2, 323.2 (M+H), found 323.2.

reactant | 1-(5-chloro-2-nitro-phenyl)-4-fluoro-piperidine | ClC=1C=CC(=C(C1)N1CCC(CC1)F)[N+](=O)[O-] | C11H12ClFN2O2
reactant | 4-methylpiperazine | 2 mL | CN1CCNCC1 | C5H12N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-[3-(4-Fluoro-piperidin-1-yl)-4-nitro-phenyl]-4-methyl-piperazine | 0.51 g, 93% | FC1CCN(CC1)C=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C | C16H23FN4O2
